US07268135B2
Step 2B [Intermediate 5, G9591-162]: To 4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyloxy]-2,8-bis-trifluoromethyl-quinoline (1.5 g, 3.0 mmol, 1 equiv.) in 45 mL of ethylene glycol dimethyl ether was added 2-(4-Bromo-benzenesulfonylamino)-3-methyl-butyric acid methyl ester (1.06 g, 3.0 mmol, 1.0 equiv.) and Pd(PPh3)4 (174 mg, 0.15 mmol, 0.05 equiv.) under N2. The reaction mixture was stirred for 0.5 hr, then an aqueous solution of K2CO3 (834 mg, 6.0 mmol, 2 equiv.) was added. The mixture was heat to reflux overnight. After cooling to room temperature, solvent was removed under vacuum. The residue was diluted with EtOAc (100 mL) and washed with brine solution. The organic layer was dried over anhydrous MgSO4, solvent evaporated under vacuum, and the crude product was purified on silica gel column (30% EtOAc/Hexane) to give 1.026 g of 2-[4′-(2,8-Bis-trifluoromethyl-quinolin-4-yloxymethyl)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid methyl ester in 53% yield.

reactant | 4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyloxy]-2,8-bis-trifluoromethyl-quinoline | 3.0 mmol, 1.5 g, 1 equiv. | CC1(OB(OC1(C)C)C1=CC=C(COC2=CC(=NC3=C(C=CC=C23)C(F)(F)F)C(F)(F)F)C=C1)C | C24H22BF6NO3
reactant | 2-(4-Bromo-benzenesulfonylamino)-3-methyl-butyric acid methyl ester | 3.0 mmol, 1.06 g, 1.0 equiv. | COC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)Br)=O | C12H16BrNO4S
reactant | K2CO3 | 6.0 mmol, 834 mg, 2 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | ethylene glycol dimethyl ether | 45 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.15 mmol, 174 mg, 0.05 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[4′-(2,8-Bis-trifluoromethyl-quinolin-4-yloxymethyl)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid methyl ester | 1.026 g, 53% yield | COC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)COC1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F)=O | C30H26F6N2O5S
